US04642308
To a solution of sodium ethylate prepared from sodium (2.3 g) and ethanol (160 cc), benzyl mercaptan (13.6 g) is added and the mixture is stirred for 1 hour at a temperature in the region of 20° C. 2-Amino-7chloro-1,8-naphthyridine (18 g) is then added and the mixture is heated for 6 hours at 60° C. The suspension produced is poured into water (500 cc) and extracted with methylene chloride (3×250 cc). After being washed with water and dried, the organic solution is concentrated to dryness under reduced pressure (4 kPa) to give 2amino-7-benzylthio-1,8-naphthyridine (15.4 g), m.p. 167° C. EXAMPLE 11

reactant | sodium ethylate | CC[O-].[Na+]
reactant | sodium | 2.3 g | [Na] | Na
reactant | benzyl mercaptan | 13.6 g | C(C1=CC=CC=C1)S | C7H8S
reactant | 2-Amino-7chloro-1,8-naphthyridine | 18 g | NC1=NC2=NC(=CC=C2C=C1)Cl | C8H6ClN3
solvent | water | 500 cc | O | H2O
solvent | ethanol | 160 cc | C(C)O | C2H6O
product | 2amino-7-benzylthio-1,8-naphthyridine | 15.4 g | NC1=NC2=NC(=CC=C2C=C1)SCC1=CC=CC=C1 | C15H13N3S
